US08791146B2
2-({[2-(4-Chlorophenyl)-1,3-thiazol-4-yl]methyl}sulphanyl)-6-ethoxy-4-[4-(2-hydroxyethoxy)-phenyl]pyridine-3,5-dicarbonitrile
100 mg (0.293 mmol) of 2-ethoxy-4-[4-(2-hydroxyethoxy)phenyl]-6-sulphanylpyridine-3,5-dicarbonitrile together with 78 mg (0.322 mmol) of 4-(chloromethyl)-2-(4-chlorophenyl)-1,3-thiazole and 98 mg (1.172 mmol) of sodium bicarbonate are stirred in 2 ml of DMF at room temperature overnight. The reaction mixture is purified by preparative HPLC (acetonitrile/water: 10:90→95:5). This gives 77 mg (47% of theory) of the target compound.

reactant | 2-ethoxy-4-[4-(2-hydroxyethoxy)phenyl]-6-sulphanylpyridine-3,5-dicarbonitrile | 0.293 mmol, 100 mg | C(C)OC1=NC(=C(C(=C1C#N)C1=CC=C(C=C1)OCCO)C#N)S | C17H15N3O3S
reactant | 4-(chloromethyl)-2-(4-chlorophenyl)-1,3-thiazole | 0.322 mmol, 78 mg | ClCC=1N=C(SC1)C1=CC=C(C=C1)Cl | C10H7Cl2NS
reactant | sodium bicarbonate | 1.172 mmol, 98 mg | C([O-])(O)=O.[Na+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 2-({[2-(4-Chlorophenyl)-1,3-thiazol-4-yl]methyl}sulphanyl)-6-ethoxy-4-[4-(2-hydroxyethoxy)-phenyl]pyridine-3,5-dicarbonitrile | ClC1=CC=C(C=C1)C=1SC=C(N1)CSC1=NC(=C(C(=C1C#N)C1=CC=C(C=C1)OCCO)C#N)OCC | C27H21ClN4O3S2
